US09061013B2
3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid ethyl ester
To a stirred solution of 3-hydroxy-3-[4-(hydroxyimino-methyl)-phenyl]-cyclobutane carboxylic acid ethyl ester (Preparation 2, 4.7 g, 17.87 mmol) in DMF (10 mL) was added N-chloro succinimide (2.61 g, 19.65 mmol) and heated at 50° C. for 1 hour. After complete consumption of starting material, reaction was cooled to 0° C., potassium hydrogen carbonate (2.68 g, 26.88 mmol) was added followed by addition of pre dissolved solution of 1,2,3-trichloro-5-(1-trifluoromethyl-vinyl)-benzene (5.40 g, 19.65 mmol). Resulting reaction mixture was stirred at room temperature for 16 hours. After consumption of chloro intermediate, reaction mixture was diluted with EtOAc (50 mL), washed with water (5×30 mL), dried over anhydrous sodium sulphate and concentrated in vacuo. Purification was done by column chromatography (silica gel, 100-200 mesh). Compound was eluted using 15% ethyl acetate in hexane as eluent to afford white sticky solid (4.7 g, 49%). 1H NMR (400 MHz, CDCl3) δ 1.28 (t, J=9.36 Hz, 3H), 2.57-2.62 (m, 2H), 2.83-2.90 (m, 3H), 3.68 (d, J=17.28 Hz, 1H), 4.08 (d, J=17.16 Hz, 1H), 4.20 (q, J=7.2 Hz, 2H), 7.55-7.57 (m, 2H), 7.64-7.67 (m, 4H). LC-MS (m/z): 536.10 (M−H).

reactant | 3-hydroxy-3-[4-(hydroxyimino-methyl)-phenyl]-cyclobutane carboxylic acid ethyl ester | 17.87 mmol, 4.7 g | C(C)OC(=O)C1CC(C1)(C1=CC=C(C=C1)C=NO)O | C14H17NO4
reactant | N-chloro succinimide | 19.65 mmol, 2.61 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | potassium hydrogen carbonate | 26.88 mmol, 2.68 g | C(O)([O-])=O.[K+]
reactant | 1,2,3-trichloro-5-(1-trifluoromethyl-vinyl)-benzene | 19.65 mmol, 5.40 g | ClC1=C(C(=CC(=C1)C(=C)C(F)(F)F)Cl)Cl | C9H4Cl3F3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid ethyl ester | 4.7 g, 49% | C(C)OC(=O)C1CC(C1)(C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)O | C23H19Cl3F3NO4
